US07109219B2
tert-Butoxycarbonylaminoacetic acid (876 mg, 5.00 mmol) and N-methylmorpholine (506 mg, 5.00 mmol) were dissolved in tetrahydrofuran (20 ml). After isobutyl chloroformate (683 mg, 5.00 mmol) was added dropwise at below −15° C. and the reaction mixture was stirred for 30 minutes, pyrrolidine (782 mg, 11.0 mmol) was added at below −15° C. and the reaction mixture was further stirred at 0° C. for 30 minutes. The reaction mixture was partitioned between ethyl acetate and 1N aqueous solution of sodium hydroxide. The organic layer was washed with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and brine, and was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the obtained residue was dissolved in a solvent mixture of ethyl acetate (10 ml)-tetrahydrofuran (5 ml). 4N hydrochloric acid Ethyl acetate solution (5 ml) was added and the reaction mixture was stirred at room temperature for 18 hours. After the solvent was distilled off, ethyl acetate was added to the crude product to precipitate crystals; and the crystals were filtered off and dried under aeration to yield 2-amino-1-(pyrrolidin-1-yl)ethanone hydrochloride (573 mg, 4.16 mmol, 84%) as white crystals.

reactant | tert-Butoxycarbonylaminoacetic acid | 5.00 mmol, 876 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N-methylmorpholine | 5.00 mmol, 506 mg | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.00 mmol, 683 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | pyrrolidine | 11.0 mmol, 782 mg | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-amino-1-(pyrrolidin-1-yl)ethanone hydrochloride | 4.16 mmol, 573 mg, 84% | Cl.NCC(=O)N1CCCC1 | InChI=1S/C6H12N2O.ClH/c7-5-6(9)8-3-1-2-4-8;/h1-5,7H2;1H
